US04375476
Morpholine (13.34 g), isovaleraldehyde (13.18 g), p-toluenesulfonic acid (0.2 g), and toluene (300 ml) were combined and heated at reflux using a Soxhlet extractor with magnesium sulfate to remove any water produced. After three hours the Soxhlet extractor was replaced with a condenser, and ethyl 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylate (30 g) was added. The reaction mixture was heated under reflux for approximately 64 hours. The solvent was evaporated, and the resultant oil was distilled to give 11.1 g of crude product which was chromatographed to yield ethyl 2,6-dimethyl-3-(1-methylethyl)benzoate (2.8 g).

reactant | Morpholine | 13.34 g | N1CCOCC1 | C4H9NO
reactant | isovaleraldehyde | 13.18 g | C(CC(C)C)=O | C5H10O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | ethyl 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylate | 30 g | CC1=CC(OC(=C1C(=O)OCC)C)=O | C10H12O4
catalyst | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2,6-dimethyl-3-(1-methylethyl)benzoate | 2.8 g | CC1=C(C(=O)OCC)C(=CC=C1C(C)C)C | C14H20O2
